US06255333B1
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-methylbut-1-ynyl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (447 mg, the compound of Example A1) in triethylamine (10 ml) at room temperature was added 3-methylbut-1-yne (0.5 ml), cuprous iodide (15 mg) and bis(triphenylphosphine)palladium(II) chloride (30 mg). The reaction mixture was heated at 70° C. for two hours. The reaction mixture was partitioned between ether (100 ml) and water (100 ml). The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:1) to provide the title compound as a pale yellow solid m.p. 210-2° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | 3-methylbut-1-yne | 0.5 ml | CC(C#C)C | C5H8
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-methylbut-1-ynyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#CC(C)C | C16H11Cl2F3N4
